US07033564B2
To a solution of N,N-diethylbenzamide (0.18 g, 1.0 mmol) in dry diethylether (5 mL), oxalyl chloride (1.0 mmol, 0.09 mL) was added. The mixture was stirred at 0° C. for one hour under an argon atmosphere. Moreover, the reaction mixture was stirred for three hours at room temperature. The mixture was added to the solution of LiAlHSeH (1.2 mmol), prepared as described above in Example One. The reaction mixture was stirred at room temperature for three hours. The mixture was extracted with diethyl ether and washed with water. The organic layer was dried over sodium sulfate and evaporated to dryness. The residue was purified by flash chromatography on silica gel with dichloromethane to give 0.16 grams (68%) of N,N-diethylbenzselenoamide as a yellow crystal; mp 53–54° C.; C11H15NSe; 1H NMR (CDCl3) δ 1.15 (3H, t, J=6.8 Hz, CH3), 1.45 (3H, t, J=6.8 Hz, CH3), 3.43 (2H, q, J=6.8 Hz, CH2), 4.25 (2H, q, J=6.8 Hz, CH2), 7.21 (2H, d, J=7.6 Hz, Ar), 7.28 (1H, d, J=6.8 Hz, Ar), 7.33 (2H, t, J=7.2 Hz, Ar); 13C NMR (CDCl3) δ 11.2, 13.2, 48.3, 49.7, 123.7, 127.8, 128.0, 146.5, 204.0; 77Se NMR (CDCl3) δ 705.3; MS (CI): m/z=242 [M++1]; HRMS: m/z=241.0369 calcd for C11H15NSe, found 241.0368.

reactant | N,N-diethylbenzamide | 1.0 mmol, 0.18 g | C(C)N(C(C1=CC=CC=C1)=O)CC | C11H15NO
reactant | oxalyl chloride | 1.0 mmol, 0.09 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | LiAlHSeH | 1.2 mmol | [Li][AlH][SeH]
solvent | diethylether | 5 mL | C(C)OCC | C4H10O
product | N,N-diethylbenzselenoamide | 0.16 grams, 68% | C(C)N(C(C1=CC=CC=C1)=[Se])CC | C11H15NSe
